US07902197B2
A mixture of 1-[2-bromo-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one (0.576 g, 1.40 mmol), benzophenone imine (0.26 mL, 1.54 mmol), cesium carbonate (0.912 g, 2.80 mmol), palladium acetate (0.031 g, 0.14 mmol) and BINAP (0.087 g, 0.14 mmol) in 14 mL of tetrahydrofuran was stirred at 90° C. in a sealed tube for 64 h then concentrated. The resulting residue was taken up in 30 mL of ethyl acetate and sequentially washed with 30 mL of water and 30 mL of a sat. aq. NaCl solution, dried over MgSO4, filtered and concentrated to a residue. Column chromatography (10→25% EtOAc/hexanes) afforded 0.670 g (93%) of 1-[2-(benzhydrylidene-amino)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one as a yellow oil.

reactant | 1-[2-bromo-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 1.40 mmol, 0.576 g | BrC=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C17H26BrN3O2Si
reactant | benzophenone imine | 1.54 mmol, 0.26 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | cesium carbonate | 2.80 mmol, 0.912 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 0.14 mmol, 0.087 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | tetrahydrofuran | 14 mL | O1CCCC1 | C4H8O
catalyst | palladium acetate | 0.14 mmol, 0.031 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-[2-(benzhydrylidene-amino)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.670 g, 93% | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C30H36N4O2Si
